US04110351
5-Tetradecyloxy-2-furoic acid ethyl ester
A mixture of 10.0 g (0.031 mole) of 5-tetradecyloxy-2-furoic acid, 4.3 g (0.034 mole) of potassium carbonate, and dimethyl formamide is stirred at room temperature after which 15.6 g (0.10 mole) of ethyl iodide is added. The mixture is heated to 50° C with stirring overnight then poured into water and extracted with ether. The ether layer is washed with water and salt water then dried over sodium sulfate, filtered, and the ether is distilled off and replaced by ethanol. Upon cooling the ethanol solution a solid is obtained which is 5-tetradecyloxy-2-furoic acid ethyl eseter, M.P. 39°-40° C.

reactant | 5-tetradecyloxy-2-furoic acid | 0.031 mole, 10.0 g | C(CCCCCCCCCCCCC)OC1=CC=C(O1)C(=O)O | C19H32O4
reactant | potassium carbonate | 0.034 mole, 4.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
reactant | ethyl iodide | 0.10 mole, 15.6 g | C(C)I | C2H5I
solvent | water | O | H2O
product | 5-Tetradecyloxy-2-furoic acid ethyl ester | C(C)OC(=O)C=1OC(=CC1)OCCCCCCCCCCCCCC | C21H36O4
